US05576313
Step 1: Preparation of N-t-butoxycarbonyl isonipecotic acid methyl ester
To an ice cold solution of N-t-butoxycarbonyl isonipecotic acid (8.8 g, 34.9 mmol), in a 10% mixture of methanol in benzene (250 ml), was added a 2.0 M solution of trimethylsilyldiazomethane in hexanes, dropwise, until a consistent yellow color was obtained (~30 ml). After vigorous gas evolution had ceased, cooling was removed and the reaction mixture stirred for 1 h at room temperature. The mixture was then treated dropwise with glacial acetic acid until all yellow color had dissipated. It was then stirred 15 min. and concentrated in vacuo to a pale yellow oil. This material was purified by column chromatography on silica with 20% EtOAc/hexane as eluent. The appropriate fractions were combined and concentrated in vacuo to afford the product as a colorless oil.

reactant | N-t-butoxycarbonyl isonipecotic acid | 34.9 mmol, 8.8 g | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | methanol | CO | CH4O
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | N-t-butoxycarbonyl isonipecotic acid methyl ester | COC(C1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H21NO4
